US07960561B2
N-(Benzimidazol-2-yl)-4-methyl-3-(trifluoromethyl)aniline
The title compound was prepared from 2-chlorobenzimidazole and 4-methyl-3-(trifluoromethyl)aniline by Procedure A. The product was isolated by filtration to give the title compound as a hydrochloride salt (white solid, mp>265° C.). MS(ES+) m/z 292 ([M+1]+, 100).

reactant | 2-chlorobenzimidazole | ClC=1NC2=C(N1)C=CC=C2 | C7H5ClN2
reactant | 4-methyl-3-(trifluoromethyl)aniline | CC1=C(C=C(N)C=C1)C(F)(F)F | C8H8F3N
product | N-(Benzimidazol-2-yl)-4-methyl-3-(trifluoromethyl)aniline | N1=C(NC2=C1C=CC=C2)NC2=CC(=C(C=C2)C)C(F)(F)F | C15H12F3N3
